US05670641
Preparation of N-{{5-[(2-Chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}carbamoyl}glycine ethyl ester
A solution of 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl isocyanate (107 g, 0.299 mol) in methylene chloride is cooled to 0° C., treated with a mixture of glycine ethyl ester hydrochloride (50.1 g, 0.359 mol) and triethylamine (166 mL, 1.20 mol) in methylene chloride over 10 minutes, refluxed overnight, cooled to room temperature, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a solid. A solution of the solid in methylene chloride is placed on a silica gel plug, eluted with methylene chloride and concentrated in vacuo to give the title product as a yellow solid which is identified by 1H and 13CNMR spectral analyses.

reactant | 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl isocyanate | 0.299 mol, 107 g | ClC1=C(C=CC(=C1)OC=1C=CC(=C(C1)N=C=O)[N+](=O)[O-])C(F)(F)F | C14H6ClF3N2O4
reactant | glycine ethyl ester hydrochloride | 0.359 mol, 50.1 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 1.20 mol, 166 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{{5-[(2-Chloro-α,α,α-trifluoro-p-tolyl)oxy]-2-nitrophenyl}carbamoyl}glycine ethyl ester | C(C)OC(CNC(NC1=C(C=CC(=C1)OC1=CC(=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O)=O | C18H15ClF3N3O6
